US08445510B2
5-Bromo-1-(phenylsulfonyl)-2-(trimethylsilyl)-1H-pyrrolo[2,3-b]pyridine
To a well stirred solution of 5-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (6.0 g, 17.8 mmol) in dry THF (60 mL) was added LDA (2M in THF; 16.0 mL, 32 mmol) at −78° C. slowly over 15 min. The reaction mixture was stirred at −70° C. for 1 h and then cooled back to −78° C. Chlorotrimethylsilane (4.1 mL, 32 mmol) was added slowly, and the reaction mixture was allowed to warm to ambient temperature over 4 h (TLC monitoring: 20% ethyl acetate in hexanes). Solvent was removed under reduced pressure keeping temperature below 40° C. to give a residue. It was extracted with ethyl acetate (2×50 mL) and washed with water (40 mL), followed by brine (10 mL) and dried over sodium sulfate. The solvent was removed under reduced pressure to yield a brown solid which was purified by column chromatography using 10% ethyl acetate in hexanes to yield the title compound as a white solid (4.8 g, 66%). 1H NMR (CDCl3, 300 MHz): δ=0.51 (s, 9H), 6.72 (s, 1H), 7.47-4.59 (m, 3H), 7.91 (d, J=2.1 Hz, 1H), 8.09-8.12 (m, 2H), 8.37 (d, J=2.1 Hz, 1H).

reactant | 5-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 17.8 mmol, 6.0 g | BrC=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C13H9BrN2O2S
reactant | LDA | 32 mmol, 2M, 16.0 mL | [Li+].CC(C)[N-]C(C)C
reactant | Chlorotrimethylsilane | 32 mmol, 4.1 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 5-Bromo-1-(phenylsulfonyl)-2-(trimethylsilyl)-1H-pyrrolo[2,3-b]pyridine | 4.8 g, 66% | BrC=1C=C2C(=NC1)N(C(=C2)[Si](C)(C)C)S(=O)(=O)C2=CC=CC=C2 | C16H17BrN2O2SSi
